US09353107B2
Step-v: 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (140 mg, 0.239 mmol) was deprotected in TFA/DCM (5/1 mL) to afford 25 mg (17.48% yield) of the titled compound after purification by preparative HPLC along with one more isomer 1H NMR (CD3OD, 300 MHz): δ 8.70-8.60 (bs, 1H), 8.59 (s, 1H), 8.20 (s, 1H), 7.70 (s, 1H), 7.60-7.30 (m, 4H), 7.20-6.95 (m, 3H), 5.37 (s, 2H), 3.60-3.50 (m, 2H), 3.30-3.10 (m, 3H), 2.40 (s, 3H), 2.15-2.00 (m, 4H). MS: m/z=484.4 (M+1), HPLC: 98.76% in method B.

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.239 mmol, 140 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2)CC2=CC(=CC=C2)F)C)C2CCN(CC2)C(=O)OC(C)(C)C | C34H35F2N5O2
solvent | TFA DCM | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 25 mg, 17.48% yield | FC=1C=C(C=CC1C1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2)CC2=CC(=CC=C2)F)C | C29H27F2N5
